US04868089
In a mixed solvent of water (200 ml) and ethanol (200 ml), 60 g of 5-methylbenzotriazole and 17.6 g of sodium hydroxide were added. To the stirred solution, 100 ml of an aqueous solution of 4N silver nitrate. The resulting mixture was subjected to filtration and the solid residue was thoroughly washed first with water, then with methanol, so as to obtain a high-purity solid methylbenzotriazole silver salt emulsion that was free of any excess unreacted matter.

reactant | water | 200 ml | O | H2O
reactant | 5-methylbenzotriazole | 60 g | CC1=CC2=C(NN=N2)C=C1 | C7H7N3
reactant | sodium hydroxide | 17.6 g | [OH-].[Na+]
reactant | silver nitrate | 4N | [N+](=O)([O-])[O-].[Ag+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | methylbenzotriazole silver salt | [Ag].CC1=CC=CC=2NN=NC21 | InChI=1S/C7H7N3.Ag/c1-5-3-2-4-6-7(5)9-10-8-6;/h2-4H,1H3,(H,8,9,10);
